US04259336
4-Hydroxy-2-methyl-N-(pyrazinyl)-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from ethyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and aminopyrazine with a yield of 52% of theory.

reactant | ethyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OCC | C14H13NO5S2
reactant | aminopyrazine | NC1=NC=CN=C1 | C4H5N3
product | 4-Hydroxy-2-methyl-N-(pyrazinyl)-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 52% | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)NC1=NC=CN=C1 | C16H12N4O4S2
